US07915424B2
5-(3-Nitrophenylethynyl)-nicotinonitrile
Prepare essentially as described in PREPARATION 10 using 5-bromonicotinonitrile (400 mg, 2.19 mmol) and 1-ethynyl-3-nitrobenzene, (prepared as described in PREPARATION 11), (644 mg, 4.38 mmol) to give the title compound (118 mg, 65%).

reactant | 5-bromonicotinonitrile | 2.19 mmol, 400 mg | BrC=1C=NC=C(C#N)C1 | C6H3BrN2
reactant | 1-ethynyl-3-nitrobenzene | 4.38 mmol, 644 mg | C(#C)C1=CC(=CC=C1)[N+](=O)[O-] | C8H5NO2
product | 5-(3-Nitrophenylethynyl)-nicotinonitrile | 118 mg, 65% | [N+](=O)([O-])C=1C=C(C=CC1)C#CC=1C=NC=C(C#N)C1 | C14H7N3O2
